US07067540B2
Step 2. Preparation of 1-(3-Aminomethyl-2-fluorobenzyl)-3-bromo-4-(2,4-difluoro-benzyloxy)-1H-pyridin-2-one.
A sealed tube containing a solution of 3-bromo-1-(3-bromomethyl-2-fluorobenzyl)-4-(2,4-difluorobenzyloxy)-1H-pyridin-2-one (0.24 g, 0.45 mmol) and NH3 (24 mL of a 7 N solution in MeOH, 168 mmol) was heated at 80° C. for 1 h. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure. Purification by flash column chromatography (silica, eluent 99.5:0.5 to 96:4 methylene chloride/methanol) afforded a white solid (0.12 g, 60%): mp 160-163° C.; 1H NMR (300 MHz, CDCl3) δ 7.46-7.45 (m, 1H), 7.44-7.35 (m, 2H), 7.34-7.26 (m, 1H), 7.15-7.05 (m, 1H), 6.95-6.80 (m, 2H), 6.11 (d, J=9 Hz, 1H), 5.21 (s, 2H), 5.19 (s, 2H), 3.90 (s, 2H). ES HRMS m/z 453.0442 (M+H C20H17BrF3N2O2 requires 453.0420).

reactant | 3-bromo-1-(3-bromomethyl-2-fluorobenzyl)-4-(2,4-difluorobenzyloxy)-1H-pyridin-2-one | 0.45 mmol, 0.24 g | BrC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)CC1=C(C(=CC=C1)CBr)F)=O | C20H14Br2F3NO2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 1-(3-Aminomethyl-2-fluorobenzyl)-3-bromo-4-(2,4-difluoro-benzyloxy)-1H-pyridin-2-one | 0.12 g, 60% | NCC=1C(=C(CN2C(C(=C(C=C2)OCC2=C(C=C(C=C2)F)F)Br)=O)C=CC1)F | C20H16BrF3N2O2
